US06515003B1
To a solution of 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-4-methoxy-6-hydroxybenzaldehyde (1.04 g, 2.95 mmol) in acetone (20 mL) was added dimethylsulfate (0.37 mL, 3.84 mmol) and potassium carbonate (490 mg, 3.55 mmol). The reaction mixture was stirred at room temperature for 15 hours and extracted with ethyl acetate (2×50 mL). The organic extracts were successively washed with water (100 mL) and a saturated aqueous solution of NaCl (100 mL), dried over MgSO4 and filtered. Removal of the solvent under reduced pressure gave 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-4,6-dimethoxybenzaldehyde (1.05 g, 97%).

reactant | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-4-methoxy-6-hydroxybenzaldehyde | 2.95 mmol, 1.04 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=O)C(=CC1OC)O | C23H28O3
reactant | dimethylsulfate | 3.84 mmol, 0.37 mL | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 3.55 mmol, 490 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-4,6-dimethoxybenzaldehyde | 1.05 g, 97% | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=O)C(=CC1OC)OC | C24H30O3
